US07723368B2
Step 6: 1-(Difluoromethoxy)-4-((3-(3,3-difluoropropoxy)phenyl)ethynyl)-2-methylbenzene
This compound was made in a similar manner to Example 89 Step 4 using 1-(3,3-difluoropropoxy)-3-ethynylbenzene (650 mg, 3.13 mmol) from the previous step, 1-(difluoromethoxy)-4-iodo-2-methylbenzene (818 mg, 2.88 mmol), TEA (1.45 g, 2.0 mL, 14.5 mmol), PdCl2(PPh3)2 (101 mg, 0.144 mmol), and CuI (16.4 mg, 0.0864 mmol), and DMF (4.4 mL) to provide the title compound as a yellow oil.

reactant | 1-(3,3-difluoropropoxy)-3-ethynylbenzene | 3.13 mmol, 650 mg | FC(CCOC1=CC(=CC=C1)C#C)F | C11H10F2O
reactant | 1-(difluoromethoxy)-4-iodo-2-methylbenzene | 2.88 mmol, 818 mg | FC(OC1=C(C=C(C=C1)I)C)F | C8H7F2IO
catalyst | PdCl2(PPh3)2 | 0.144 mmol, 101 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.0864 mmol, 16.4 mg | [Cu]I
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
product | 1-(Difluoromethoxy)-4-((3-(3,3-difluoropropoxy)phenyl)ethynyl)-2-methylbenzene | FC(OC1=C(C=C(C=C1)C#CC1=CC(=CC=C1)OCCC(F)F)C)F | C19H16F4O2
